US08003785B2
To the solution 0.17 g (0.27 mmole) of 4-[4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester (I-71) in 10 mL of dichloromethane was added 5 mL of trifluoroacetic acid. The mixture was stirred at room temperature for 1 hour. After removal of the solvents under reduced pressure. Then dichloromethane and saturated sodium carbonate were added. The mixture was extracted with dichloromethane three times. The combined organic layers were washed three times with sodium carbonate, three times with water, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Dichloromethane and ether were added to the residue, followed by hexane to give a precipitate. The solid was collected by filtration, washing with hexane to give 0.125 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-piperidin-4-yl-benzamide (I-72) as a white solid.

reactant | 4-[4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester | 0.27 mmole, 0.17 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=CC(=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1)OC)=O | C31H41F2N7O5
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-piperidin-4-yl-benzamide | 0.125 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCNCC1)C=C2)OC | C26H33F2N7O3
